Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Hematemesis 
 
Major Surgical or Invasive Procedure:
Endoscopy with endoclipping of antral ulcer ___

 
History of Present Illness:
___ y/o gentleman, who had upper endoscopy and EUS on ___, 
was transferred from an OSH with abdominal pain that started on 
___ and melena with a subsequent single episode of BRBPR on 
___. Black melena that is guiaic positive on OSH rectal exam. 
Hct there 39.5. He is on daily aspirin and held this over the 
weekend. At the OSH, he was given an IV (narcotic?) afterwhich 
he became hypotensive (BP in the 70's) and was given 1L NS. He 
was given Protonix and transferred here for further management. 

He states that the discomfort is all in his upper abdomen and is 
mild after the pain medication, but he feels very fatigued. He 
denies syncope or presyncope, fevers, chills, chest pain or 
shortness of breath

EGD/EUS was done at the ___ on ___. He was found to have an 
antral mucosal mass arises for layer 3 of the submucosa with 
characteristics consistent with pancreatic rest. the nodule was 
removed with band EMR.  

 
Past Medical History:
1- Type 2 Diabetes Mellitus since ___
2- Hypertension 

 
Social History:
___
Family History:
Not significant 
 
Physical Exam:
PHYSICAL EXAM:  

VITALS: 
HR: 110  O2sat: 97% RA    T:98.1
RR: 12   BP: 110/70 mmHg

GENERAL: Alert, oriented, no acute distress. Fatigued. 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, epigastric tenderness, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 

 
Pertinent Results:
Labs on admission:
==================
___ 08:22PM   WBC-13.5* RBC-4.09* HGB-11.4* HCT-34.3* 
MCV-84 MCH-27.9 MCHC-33.2 RDW-12.3 RDWSD-37.5
___ 08:22PM   NEUTS-85.5* LYMPHS-12.2* MONOS-1.7* EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-11.50* AbsLymp-1.64 AbsMono-0.23 
AbsEos-0.00* AbsBaso-0.02
___ 05:28PM   LACTATE-2.1*
___ 05:20PM   GLUCOSE-191* UREA N-35* CREAT-0.9 SODIUM-139 
POTASSIUM-5.0 CHLORIDE-103 TOTAL CO2-21* ANION GAP-15
___ 05:20PM   estGFR-Using this
___ 05:20PM   WBC-12.8* RBC-3.96* HGB-11.1* HCT-33.4* 
MCV-84 MCH-28.0 MCHC-33.2 RDW-12.3 RDWSD-37.5
___ 05:20PM   NEUTS-85.7* LYMPHS-11.6* MONOS-2.0* EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-10.96* AbsLymp-1.48 AbsMono-0.26 
AbsEos-0.01* AbsBaso-0.01
___ 05:20PM   PLT COUNT-189
___ 05:20PM   ___ PTT-23.5* ___
 
Brief Hospital Course:
The patient was admitted to the ICU for hematesis with 
hypotension for possible intubation on ___. He received 2 
PRBCs.  

An EGD on ___ was done. A single 2 cm ulcer was found in the 
antrum of the stomach. The ulcer was at the previous EMR site. 5 
endoclips were used to close the defect successfully. 

The patient was kept under observation for a day to monitor his 
vital signs. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 30 mg PO DAILY 
2. Glargine 34 Units Breakfast
3. Omeprazole 40 mg PO BID 
4. Trulicity (dulaglutide) 1.5 mg/0.5 mL subcutaneous 1X/WEEK 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Glargine 34 Units Breakfast 
2.  Lisinopril 30 mg PO DAILY  
3.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
4.  Trulicity (dulaglutide) 1.5 mg/0.5 mL subcutaneous 1X/WEEK  
5. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you speak with your doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
=========
Gastrointestinal bleed
Antral ulcer s/p endoclipping 

SECONDARY:
==========
Diabetes Mellitus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___:

WHY WAS I ADMITTED TO THE HOSPITAL?
====================================
You were admitted to the hospital because you were having dark 
black stool and you had a fast heart rate due to bleeding from 
your stomach. 

WHAT HAPPENED IN THE HOSPITAL?
================================
In the hospital you were given blood transfusions. You had a 
procedure called an endoscopy which showed an ulcer in your 
stomach at the site of your previous mucosal resection that was 
clipped. 

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
============================================
When you leave the hospital please take all your medication as 
prescribed. You should not take any medications containing 
NSAIDS (ibuprofen, naproxen). Please follow up with your GI 
doctor. You may eat your regular diet. 

It was a pleasure caring for you!

Sincerely, 
Your ___ Treatment Team 
 
Followup Instructions:
___